Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin / Pyridium / Sulfa (Sulfonamide Antibiotics) / 
Bactrim / prednisone
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP on ___: 
The scout film was normal. The bile duct was cannulated. 
Contrast was injected. The common bile duct, common hepatic 
duct, right and left hepatic ducts, biliary radicles and cystic 
duct were filled with contrast and well visualized. The course 
and caliber of the structures are normal with no evidence of 
extrinsic compression, no ductal abnormalities, and no clear 
evidence of filling defects. Given patient's elevated liver 
function tests and concern for possible choledocholithiasis, a 
sphincterotomy was performed in the 12 o'clock position using a 
sphincterotome over an existing guidewire. Some oozing was noted 
after the sphincterotomy. The biliary tree was swept with a 
balloon starting at the bifurcation. One stone and sludge was 
removed. The CBD and CHD were swept repeatedly until no further 
stones or sludge were seen. The final occlusion cholangiogram 
showed no evidence of filling defects in the CBD. Excellent bile 
and contrast drainage was seen endoscopically and 
fluoroscopically. At the end of the procedure, the site of the 
sphincterotomy was carefully washed. No evidence of ongoing 
bleeding was noted. I supervised the acquisition and 
interpretation of the fluoroscopic images. The quality of the 
fluoroscopic images was good.  
 
Impression:  
A periampullary diverticulum with small opening was found at the 
major papilla.  
Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique.  
Contrast medium was injected resulting in complete 
opacification.  
The common bile duct, common hepatic duct, right and left 
hepatic ducts, biliary radicles and cystic duct were filled with 
contrast and well visualized.  
The course and caliber of the structures are normal with no 
evidence of extrinsic compression, no ductal abnormalities, and 
no clear evidence of filling defects.  
Given patient's elevated liver function tests and concern for 
possible choledocholithiasis, a sphincterotomy was performed in 
the 12 o'clock position using a sphincterotome over an existing 
guidewire. Some oozing was noted after the sphincterotomy.  
The biliary tree was swept with a balloon starting at the 
bifurcation. One stone and sludge was removed.  
The CBD and CHD were swept repeatedly until no further stones or 
sludge were seen.  
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.  
At the end of the procedure, the site of the sphincterotomy was 
carefully washed. No evidence of ongoing bleeding was noted.  
Otherwise normal ercp to third part of the duodenum. 

 
History of Present Illness:
HMED ATTENDING INITIAL NOTE
DATE SEEN: ___
TIME SEEN: ___
.
___ with h/o PMR and no h/o biliary disease presents for 
evaluation of epigastric pain. She has had intermittent 
periumbilic abdominal pain with radiation to the RUQ x one 
month. It improves when she has a bowel movement. Today the pain 
was worsened with eating. She presented with severe ___ pain 
exacerbated by eating lunch.

Describes pain that was in entire abdomen and 'bloated - bowel 
movements resolved the pain. Pain runs to R flank.  Vomited at 
her PCP the contents of her lunch. ___ pain, however 
resolving. Has not eaten since. Tolerating water. Denies 
dysuria, fever, cp, sob. 
.
VS on presentation: ___ /97% RA 
.
Zofran and 1L IVF given
.
REVIEW OF SYSTEMS: No weight loss
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  As per HPI
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [+] All normal- mild fatigue
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
COLONOSCOPIC SCREENING 
DYSPEPSIA 
MACROCYTOSIS 
NEPHROLITHIASIS 
OSTEOPENIA/T 11 VERTEBRAL FRACTURE 
POLYMYALGIA RHEUMATICA 
RECURRENT URINARY TRACT INFECTION 
SKIN CANCERS 
SPIDER VEINS 
? ADRENAL NODULE 
ANXIETY 
SEBORRHEIC KERATOSIS 

 
Social History:
___
Family History:
Mother with h/o gallstones s/p ERCP. Her mother died of failure 
to thrive at age ___. Her father died from complications of 
prostate cancer when he was ___. 
 
Physical Exam:
Vitals:  T 98.6  P 75  BP  172/74 RR 16  SaO2 100% on RA
GEN: NAD, comfortable appearing. Very pleasant  
HEENT: ncat anicteric MMM  
NECK:  Supple
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
ABD: +bs, soft, + RUQ tenderness with mild guarding
+ epigastric tenderness
EXTR:no c/c/e 2+pulses  
DERM: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  

 
Pertinent Results:
___ 08:10PM BLOOD WBC-10.5*# RBC-3.98 Hgb-13.7 Hct-40.7 
MCV-102* MCH-34.4* MCHC-33.7 RDW-13.1 RDWSD-49.8* Plt ___
___ 08:10PM BLOOD Neuts-80.8* Lymphs-11.8* Monos-6.8 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-8.51* AbsLymp-1.24 
AbsMono-0.72 AbsEos-0.01* AbsBaso-0.02
___ 08:10PM BLOOD Plt ___
___ 08:10PM BLOOD Glucose-108* UreaN-12 Creat-0.6 Na-139 
K-4.6 Cl-99 HCO3-27 AnGap-18
___ 08:10PM BLOOD estGFR-Using this
___ 08:10PM BLOOD Lipase-29
___ 08:10PM BLOOD Albumin-4.6
___ 08:10PM BLOOD HoldBLu-HOLD
___ 08:10PM BLOOD GreenHd-HOLD
___ 11:44PM BLOOD Lactate-1.1
======================
RUQ US:
Mildly distended distal common bile duct with normal proximal 
common bile
duct the absence of intrahepatic biliary duct dilatation is most 
consistent
with biliary ectasia. If concern for biliary obstruction 
recommend dedicated
MRCP or ERCP for further evaluation.
2. Mild gallbladder wall thickening with trace pericholecystic 
free fluid with a decompressed gallbladder is most consistent 
with underdistention. No
evidence of acute cholecystitis
======================
ERCP on ___: 
The scout film was normal. The bile duct was cannulated. 
Contrast was injected. The common bile duct, common hepatic 
duct, right and left hepatic ducts, biliary radicles and cystic 
duct were filled with contrast and well visualized. The course 
and caliber of the structures are normal with no evidence of 
extrinsic compression, no ductal abnormalities, and no clear 
evidence of filling defects. Given patient's elevated liver 
function tests and concern for possible choledocholithiasis, a 
sphincterotomy was performed in the 12 o'clock position using a 
sphincterotome over an existing guidewire. Some oozing was noted 
after the sphincterotomy. The biliary tree was swept with a 
balloon starting at the bifurcation. One stone and sludge was 
removed. The CBD and CHD were swept repeatedly until no further 
stones or sludge were seen. The final occlusion cholangiogram 
showed no evidence of filling defects in the CBD. Excellent bile 
and contrast drainage was seen endoscopically and 
fluoroscopically. At the end of the procedure, the site of the 
sphincterotomy was carefully washed. No evidence of ongoing 
bleeding was noted. I supervised the acquisition and 
interpretation of the fluoroscopic images. The quality of the 
fluoroscopic images was good.  
 
Impression:  
A periampullary diverticulum with small opening was found at the 
major papilla.  
Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique.  
Contrast medium was injected resulting in complete 
opacification.  
The common bile duct, common hepatic duct, right and left 
hepatic ducts, biliary radicles and cystic duct were filled with 
contrast and well visualized.  
The course and caliber of the structures are normal with no 
evidence of extrinsic compression, no ductal abnormalities, and 
no clear evidence of filling defects.  
Given patient's elevated liver function tests and concern for 
possible choledocholithiasis, a sphincterotomy was performed in 
the 12 o'clock position using a sphincterotome over an existing 
guidewire. Some oozing was noted after the sphincterotomy.  
The biliary tree was swept with a balloon starting at the 
bifurcation. One stone and sludge was removed.  
The CBD and CHD were swept repeatedly until no further stones or 
sludge were seen.  
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.  
At the end of the procedure, the site of the sphincterotomy was 
carefully washed. No evidence of ongoing bleeding was noted.  
Otherwise normal ercp to third part of the duodenum. 

 
Brief Hospital Course:
Mrs. ___ is a ___ y/o F with h/o PMR, anxiety, and chronic 
alcohol use who presented with acute onset of severe RUQ 
abdominal pain, found to have elevated LFTS, low grade temps and 
a mildly dilated CBD concerning for possible obstructive biliary 
disease.  Underwent ERCP on ___ with sphincterotomy, stone 
extraction, and finding of a periampullary diverticulum.  On the 
day following ERCP, she had mild abdominal pain, but with 
improving LFTs on AM labs.  Pain treated with IV pain 
medications to good effect. Later in the day, pain had improved, 
she tolerated clears and then a regular diet without worsening 
pain.  She was evaluated by the ___ surgery service for 
cholecystectomy, and elected to pursue interval cholecystectomy 
as an outpatient.  She was discharged in good condition, on 
flagyl 500 mg PO TID for 4 more days (instructed not to drink 
alcohol while on flagyl), with plans to follow-up in surgery 
clinic the day after discharge.

 
Medications on Admission:
ACYCLOVIR - acyclovir 400 mg tablet. 2 Tablet(s) by mouth bid x 
5d as needed for genital herpes outbreaks
ALPRAZOLAM 1.25 mg at 1 am and 1.25 mg at 415 am and then 0.75 
at 7 am. Sometimes she does not take the 0.75 at 7 am 
BIOST - bone supplement Dosage uncertain -  (Prescribed by Other 
Provider)
ESTRADIOL [ESTRACE] - Estrace 0.01% (0.1 mg/gram) vaginal cream. 
___ applicator twice weekly Dose increased by Dr. ___ [URELLE] - Urelle 81 mg-10.8 
mg-40.8 mg tablet. 1 (One) tablet(s) by mouth twice a day as 
needed for for urinary sx
MYOPLOUS - supplement -since she can't take prednisone
TRETINOIN (EMOLLIENT) [___] - ___ 0.02 % topical cream. 
Apply to face as directed once nightly
TRIAMCINOLONE ACETONIDE - triamcinolone acetonide 0.1 % topical 
cream. Apply to trunk twice daily as needed for itchiness
 
Medications - OTC
CALCIUM CITRATE - Dosage uncertain -  (Prescribed by Other 
Provider; 400 mg daily.)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 400 
unit capsule. 1 capsule(s) by mouth once daily -  (Prescribed by 
Other Provider)
FLAXSEED OIL - Dosage uncertain -  (OTC)
GLUCOSAMINE SULFATE - glucosamine sulfate 500 mg tablet. 1 
tablet(s) by mouth twice daily -  (OTC)
LACTOBACILLUS ACIDOPHILUS [PROBIOTIC] - Dosage uncertain -  
(OTC)
MULTIVITAMIN - Dosage uncertain -  (OTC; 250 mg calcium/400 iu 
vitamin D.)
OMEGA-3 FATTY ACIDS - Dosage uncertain -  (Prescribed by Other 
Provider)
RANITIDINE HCL [ZANTAC] - Zantac 150 mg tablet. 1 Tablet(s) by 
mouth twice a day -  (Prescribed by Other Provider; OTC)
--------------- --------------- --------------- ---------------

 
Discharge Medications:
1. ALPRAZolam 1.25 mg PO TID:PRN anxiety 
2. MetRONIDAZOLE (FLagyl) 500 mg PO Q12H Duration: 4 Days 
Do not drink alcohol when taking this medication or for ___ days 
after stopping. 
RX *metronidazole 500 mg 1 tablet(s) by mouth twice a day Disp 
#*8 Tablet Refills:*0
3. Acyclovir 400 mg PO 5X/D as needed for HSV flare 
4. estradiol 0.01 % (0.1 mg/gram) vaginal 2X/WEEK 
5. glucosamine sulfate 500 mg oral BID 
6. Ranitidine 150 mg PO BID 
7. tretinoin (emollient) 0.02 % topical QHS 
8. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN 
itchiness 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis with obstruction s/p ERCP

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Gen - No acute distress
Eyes - anicteric, EOMI
ENT - moist mucous membranes, no nasal discharge, oropharynx
clear
Neck - No LAD, JVP normal
Cardiovascular - RR, s1s2 nl, no m/r/g, no edema
Respiratory - breathing comfortably, no accessory muscle use,
CTAB with no wheezing, rhonchi or crackles
GI - soft, RUQ mildly tender to deep palpation over gallbladder 
area
with negative ___ sign, nontender in epigastrium RLQ, LUQ,
and LLQ, no rebound tenderness or guarding; no hepatomegaly or
splenomegaly appreciated on exam; bowel sounds are hyperactive; 
Skin - warm, dry, with no rash
Psych - alert, slightly anxious affect
Neuro - oriented to person, place, time, and reason for
hospitalization; moving all 4 extremities; speech is fluent; no
facial droop; no tremor

 
Discharge Instructions:
You were admitted with abdominal pain and elevated liver 
function tests.  You underwent ERCP which relieved the 
obstruction, your liver function tests began to improve, and you 
had improvement in your abdominal pain.  You should take flagyl 
for the next 4 days and avoid any anticoagulant medications 
(e.g. aspirin, heparin, Coumadin, etc.) for the next 4 days.  Do 
not drink alcohol while taking flagyl.  Follow up with Dr. ___ 
at your scheduled appointment.
 
Followup Instructions:
___